US05817671
5-(N-[propionyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 2.0 gm (8.7 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.91 mL (10.4 mMol) propionyl chloride, 2.58 gm of the title compound were prepared as a crude brown foam essentially by the procedure described in Example 4. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing 10% methanol and 1% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure. This residue was crystallized from ethanol:water to provide 1.74 gm (70%) of the title compound in two crops.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 8.7 mMol, 2.0 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | propionyl chloride | 10.4 mMol, 0.91 mL | C(CC)(=O)Cl | C3H5ClO
product | 5-(N-[propionyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 2.58 gm | C(CC)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C16H22N4O
